US06306853B1
2-[4-(1-Imidazolyl)phenyl]-6-methyl-4-[(E)-2-phenylethenyl]-1,4-dihydropyridin-3,5-dicarboxylate 3-ethylester 5-[3-(3-pyridyl)-2-propynyl]ester (Compound 24)
520 mg of ethyl 4-(1-imidazolyl)benzoylacetate, 420 mg of 3-aminocrotonate 3-(3-pyridyl)-2-propynylester, and 300 mg of cinnamaldehyde were allowed to stand in 20 ml methanol solution containing 1 ml of acetic acid at room temperature for 1 week. The reaction solution was extracted with ethyl acetate and then the solvent was concentrated to dryness. The oily substance was purified by silica gel column chromatography to obtain the target compound in an amount of 520 mg (48.2%).

reactant | ethyl 4-(1-imidazolyl)benzoylacetate | 520 mg | N1(C=NC=C1)C1=CC=C(C(=O)CC(=O)OCC)C=C1 | C14H14N2O3
reactant | 3-aminocrotonate 3-(3-pyridyl)-2-propynylester | 420 mg | N1=CC(=CC=C1)C#CCOC(\C=C(\C)/N)=O | C12H12N2O2
reactant | cinnamaldehyde | 300 mg | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 20 ml | CO | CH4O
product | 2-[4-(1-Imidazolyl)phenyl]-6-methyl-4-[(E)-2-phenylethenyl]-1,4-dihydropyridin-3,5-dicarboxylate 3-ethylester 5-[3-(3-pyridyl)-2-propynyl]ester | N1=CC(=CC=C1)C#CCOC(=O)C=1C(C(=C(NC1C)C1=CC=C(C=C1)N1C=NC=C1)C(=O)OCC)\C=C\C1=CC=CC=C1 | C35H30N4O4
